US07053105B2
A mixture of 2-amino-4-(3-chlorophenyl)-α-(4-chlorophenyl)-α-(1-methyl-1H-imidazol-5-yl)-6-quinazolinemethanol (0.00021 mol), obtained in Example B19, cyclohexanecarboxylic acid (1.2 equiv, 0.000252 mol), N′-(ethylcarbonimidoyl)-N,N-dimethyl-1,3-propanediamine, monohydrochloride (1.5 equiv, 0.000315 mol), 1-hydroxy-1H-benzotriazole (1.5 equiv, 0.000315 mol) and triethylamine (1.5 equiv, 0.000315 mol) in THF (2 ml) was stirred at room temperature for 18 hours, then taken up in water. The organic layer was separated and the solvent was evaporated. The residue was purified by HPLC. The product fractions were collected and the solvent was evaporated, yielding 0.006 g (4.8%) of N-[4-(3-chlorophenyl)-6-[(4-chlorophenyl)hydroxy(1-methyl-1H-imidazol-5-yl)methyl]-2-quinazolinyl]-cyclohexanecarboxamide, MS (ESI) m/z: 586 588 590.

reactant | 2-amino-4-(3-chlorophenyl)-α-(4-chlorophenyl)-α-(1-methyl-1H-imidazol-5-yl)-6-quinazolinemethanol | 0.00021 mol | NC1=NC2=CC=C(C=C2C(=N1)C1=CC(=CC=C1)Cl)C(O)(C1=CN=CN1C)C1=CC=C(C=C1)Cl | C25H19Cl2N5O
reactant | cyclohexanecarboxylic acid | 0.000252 mol, 1.2 equiv | C1(CCCCC1)C(=O)O | C7H12O2
reactant | N′-(ethylcarbonimidoyl)-N,N-dimethyl-1,3-propanediamine, monohydrochloride | 0.000315 mol, 1.5 equiv | Cl.C(C)C(=N)NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 0.000315 mol, 1.5 equiv | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.000315 mol, 1.5 equiv | C(C)N(CC)CC | C6H15N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-[4-(3-chlorophenyl)-6-[(4-chlorophenyl)hydroxy(1-methyl-1H-imidazol-5-yl)methyl]-2-quinazolinyl]-cyclohexanecarboxamide | 0.006 g, 4.8% | ClC=1C=C(C=CC1)C1=NC(=NC2=CC=C(C=C12)C(C1=CN=CN1C)(O)C1=CC=C(C=C1)Cl)NC(=O)C1CCCCC1 | C32H29Cl2N5O2
